US06982268B2
To a solution of (3-methoxy-5-phenyl-pyrazin-2-yl)-methanol (60 mg, 0.28 mmol) in DCM (5 mL) is added SOCl2 (5 eq) at room temperature. The mixture is stirred at room temperature for an additional one hour. Solvent and volatile materials are removed in vacuo to dryness to give 65 mg of 2-chloromethyl-3-methoxy-5-phenyl-pyrazine as an oil.

reactant | (3-methoxy-5-phenyl-pyrazin-2-yl)-methanol | 0.28 mmol, 60 mg | COC=1C(=NC=C(N1)C1=CC=CC=C1)CO | C12H12N2O2
reactant | SOCl2 | 5 eq | O=S(Cl)Cl | Cl2OS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-3-methoxy-5-phenyl-pyrazine | 65 mg | ClCC1=NC=C(N=C1OC)C1=CC=CC=C1 | C12H11ClN2O
